US06765006B2
1-Isopropyl-6,7-methylenedioxy-4-(2-naphthyl)-3,4-dihydro-quinazolin-2(1H)-one
This compound was synthesized from N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea (226 mg) and 2-naphthaldehyde (152 mg) by the procedure described in example 10 in 60% yield, mp: 186-178° C. 1H NMR (CDCl3): 7.86-7.75 (m, 4H), 7.52-7.42 (m, 3H), 6.70 (s, 1H), 6.32 (s, 1H), 5.91 (d, J=1.3, 1H), 5.88 (d, J=1.3, 1H), 5.47 (s, 1H), 5.16 (br s, 1H), 4.45 (m, 1H), 1.58 (m, 6H). Anal. calcd. for C22H20N2O3: C. 73.32; H, 5.59; N, 7.77. Found: C, 73.10; H, 5.49; N, 7.62.

reactant | N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea | 226 mg | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O3
reactant | 2-naphthaldehyde | 152 mg | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | 1-Isopropyl-6,7-methylenedioxy-4-(2-naphthyl)-3,4-dihydro-quinazolin-2(1H)-one | 60% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C3=CC1=CC=CC=C1C=C3)=O | C22H20N2O3
